### PR TITLE
feat: port `Surreal` multiplication to `IGame`

### PR DESCRIPTION
**Pull request by vihdzp**
This legitimately took two entire nights. 
- [x] depends on: #48
- [x] depends on: #50

### CODE REVIEW

File: CombinatorialGames/Surreal/Basic.lean [hunk 1]
```diff
@@ -233,10 +239,10 @@ instance : PartialOrder Surreal :=
   inferInstanceAs (PartialOrder (Antisymmetrization ..))
 
 instance : LinearOrderedAddCommGroup Surreal where
-  zero_add := by rintro ⟨x⟩; change mk (0 + _) = mk _; simp_rw [zero_add]
-  add_zero := by rintro ⟨x⟩; change mk (_ + 0) = mk _; simp_rw [add_zero]
-  add_comm := by rintro ⟨x⟩ ⟨y⟩; change mk (_ + _) = mk (_ + _); simp_rw [add_comm]
-  add_assoc := by rintro ⟨x⟩ ⟨y⟩ ⟨z⟩; change mk (_ + _ + _) = mk (_ + (_ + _)); simp_rw [add_assoc]
+  zero_add := by rintro ⟨x⟩; change mk (0 + x) = mk x; simp_rw [zero_add]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Basic.lean:242]: I do prefer the explicit variable usage since `rintro`'s destructured introduced variable name is explicit :+1:

File: CombinatorialGames/Surreal/Multiplication.lean [hunk 2]
```diff
@@ -7,160 +7,159 @@ import CombinatorialGames.Surreal.Basic
...
+paper. As in said argument, P3 is proven by proxy of an auxiliary P4, which states that for
+`x₁ < x₂` and `y`, then `x₁ * y + x₂ * a < x₁ * a + x₂ * y` when `a ∈ y.leftMoves`, and
+`x₁ * b + x₂ * y < x₁ * y + x₂ * b` when `b ∈ y.rightMoves`.
+
+## Reducing casework
+
+This argument is very casework heavy in a way that's difficult to automate. For instance, in P1, we
+have to prove four different inequalities of the form
+`a ∈ (x * y).leftMoves → b ∈ (x * y).rightMoves → a < b`, and depending on what form the options of
+`x * y` take, we have to apply different instantations of the inductive hypothesis.
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Multiplication.lean]:
```suggestion
`x * y` take, we have to apply different instantiations of the inductive hypothesis.
```

File: CombinatorialGames/Surreal/Multiplication.lean [hunk 3]
```diff
@@ -169,364 +168,361 @@ lemma Args.numeric_P24 {x₁ x₂ y} :
...
+    (hs : ∀ i ∈ (-x₁).leftMoves, IH3 (-x₂) i (-x₁) y₁ y₂) (hl : x₁ < x₂) : P3 x₁ x₂ y₁ y₂ := by
+  obtain (⟨i, hi, hi'⟩ | ⟨i, hi, hi'⟩) := lf_iff_exists_le.1 hl.not_le
+  · exact P3_of_le_left i (h i hi) hi'
+  · refine P3_neg.1 <| P3_of_le_left _ (hs (-i) ?_) ?_ <;> simpa
+
+/-- `P4` follows from the induction hypothesis. -/
+lemma P4_of_IH (IH : ∀ a, ArgsRel a (.P24 x₁ x₂ y) → P124 a) : P4 x₁ x₂ y := by
+  have h₁₂ := IH24_of_IH IH
+  have h₂₁ := IH24_swap_of_IH IH
+  have h4 := IH4_of_IH IH
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Multiplication.lean]:
```suggestion
  have h₁₂ := IH24_of_IH IH
  have h4 := IH4_of_IH IH
```

**Review by LeoDog896 — COMMENTED** [review]
Looks good! Just 2 nitpicks.

File: CombinatorialGames/Surreal/Multiplication.lean (hunk 3 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Multiplication.lean]: Nice catch!

**Review by LeoDog896 — APPROVED** [review]
